US08580798B2
4-{3-fluoro-4-[3-(6-methoxypyrimidin-4-yl)ureido]phenoxy}pyridine-2-carboxylic acid methylamide
A solution of 6-amino-4-methoxypyrimidine (50.0 mg; 0.39 mmol), triphosgene (43.0 mg; 0.14 mmol) and diisopropylethylamine (60.7 mg; 0.47 mmol) in THF (2.0 mL) was heated at 70° C. for 4 h. A solution of 4-(4-amino-3-fluoro-phenoxy)-pyridine-2-carboxylic acid methylamide (102.3 mg; 0.39 mmol) in DMF (1.0 mL) was then added, and the reaction mixture was heated at 70° C. for another 8 h, then extracted between EtOAc and saturated aqueous NaHCO3. The organic layer was dried and evaporated to give a crude oil that was purified via HPLC to give the title compound (14 mg, 9%). 1H-NMR (CD3OD) δ 8.36 (s, 1H), 8.35 (s, 1H), 8.14 (t, J=8.8 Hz, 1H), 7.46 (d, J=2.4 Hz, 1H), 7.00-6.86 (m, 3H), 6.60 (s, 1H), 3.86 (s, 3H), 2.83 (s, 3H); LC-MS m/z 413 [M+H]+.

reactant | 6-amino-4-methoxypyrimidine | 0.39 mmol, 50.0 mg | NC1=CC(=NC=N1)OC | C5H7N3O
reactant | triphosgene | 0.14 mmol, 43.0 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | diisopropylethylamine | 0.47 mmol, 60.7 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(4-amino-3-fluoro-phenoxy)-pyridine-2-carboxylic acid methylamide | 0.39 mmol, 102.3 mg | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)N)F | C13H12FN3O2
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 4-{3-fluoro-4-[3-(6-methoxypyrimidin-4-yl)ureido]phenoxy}pyridine-2-carboxylic acid methylamide | 14 mg, 9% | CNC(=O)C1=NC=CC(=C1)OC1=CC(=C(C=C1)NC(=O)NC1=NC=NC(=C1)OC)F | C19H17FN6O4
